US04742068
b. 1-Benzoyl-1,4-dihydro-4,4-diphenylpyridine
The title compound was prepared using the method of Example 2b after substituting equivalent quantities of benzamide for (3,4-dimethoxyphenyl)acetamide and 3,3-diphenylglutaraldehyde (the compound of Example 4a) for 3,3-dimethylglutaraldehyde as starting materials. The crude product was purified by silica gel flash chromatography eluting with a 7% ethyl acetate/hexane solution. The eluate was evaporated in vacuo to yield a clear oil which, after triturating with methanol, gave the title compound as a white solid, mp 91°-93° C.

reactant | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | (3,4-dimethoxyphenyl)acetamide | COC=1C=C(C=CC1OC)CC(=O)N | C10H13NO3
reactant | 3,3-diphenylglutaraldehyde | C1(=CC=CC=C1)C(CC=O)(CC=O)C1=CC=CC=C1 | C17H16O2
reactant | 3,3-dimethylglutaraldehyde | CC(CC=O)(CC=O)C | C7H12O2
product | 1-Benzoyl-1,4-dihydro-4,4-diphenylpyridine | C(C1=CC=CC=C1)(=O)N1C=CC(C=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H19NO
